US05464847
2-bromo-1-(2,4,6-trimethylphenyl)-1-ethanone (Compound 1)
Dissolve 0.3 mol of 1-(2,4,6-trimethylphenyl)-1-ethanone in 200 ml of glacial acetic acid, and add 31.8 g of bromine dropwise while maintaining the reaction medium at a temperature below 10° C. When the addition is complete, allow the reaction medium to return to room temperature and leave at this temperature for 2 hours. Then pour the reaction medium into 500 ml of ice-cold water and extract the aqueous phase with ethyl ether. Wash the organic extracts with saturated aqueous sodium bicarbonate solution and then with salt water, and dry over anhydrous magnesium sulphate.

reactant | 1-(2,4,6-trimethylphenyl)-1-ethanone | 0.3 mol | CC1=C(C(=CC(=C1)C)C)C(C)=O | C11H14O
reactant | bromine | 31.8 g | BrBr | Br2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(2,4,6-trimethylphenyl)-1-ethanone | BrCC(=O)C1=C(C=C(C=C1C)C)C | C11H13BrO
